US09359375B2
A solution of benzyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate (175 mg, 0.603 mmol) and Pd—C (10%, 55 mg) in MeOH (5 mL) was hydrogenated under balloon hydrogen for 2 h. The mixture was filtered through celite. The filtrate was concentrated in vacuo to give 2-amino-4,4,4-trifluorobutanamide (88 mg).

reactant | benzyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate | 0.603 mmol, 175 mg | NC(C(CC(F)(F)F)NC(OCC1=CC=CC=C1)=O)=O | C12H13F3N2O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd—C | 55 mg | [Pd] | Pd
product | 2-amino-4,4,4-trifluorobutanamide | 88 mg | NC(C(=O)N)CC(F)(F)F | C4H7F3N2O
